### PR TITLE
Starter of blake3 completeness / determinism proofs

### PR DESCRIPTION
**Pull request by YunkaiZhang233**
I have been working on proving determinism of blake3 but after a few iterations I feel like there could be various ways to define the concept of determinism and I'm not quite sure if I am on the right track by now. Provided some basic styles of lemmas that I have defined for the utility gadgets and also it is the skeleton I am currently trying to complete. the proofs for the `admit`s here are obvious to me conceptually but I am finding a way to properly unrolling them.

### CODE REVIEW

File: Garden/Plonky3/MLessEffects.v [hunk 1]
```diff
@@ -237,10 +179,22 @@ Module Run.
 
   Lemma AssertZerosFromFnSub {p} `{Prime p} (N : Z) (f g : Z -> Z) :
     {{ M.Zeros (N := N) {| Array.get i := BinOp.sub (f i) (g i) |} 🔽
-      tt, forall i, 0 <= i < N -> f i = g i
+      tt, forall i, 0 <= i < N -> (f i) mod p = (g i) mod p
```
Comment (clarus) [inline Garden/Plonky3/MLessEffects.v:182]: Indeed, this was a mistake in the previous code.

File: Garden/OpenVM/EqualityCheck/example.v [hunk 2]
```diff
@@ -30,59 +30,6 @@ Module Limbs.
...
-  end.
-
-Ltac bubble_mod_goal :=
-  unfold BinOp.add, BinOp.sub, BinOp.mul, Array.get_mod;
-  repeat rewrite foo_mod_mod;
-  repeat match goal with
-  | |- context [?e1 mod ?p = ?e2 mod ?p] =>
-    bubble_mod_expr (e1 mod p);
-    bubble_mod_expr (e2 mod p)
-  end.
```
Comment (clarus) [inline Garden/OpenVM/EqualityCheck/example.v:85]: OK good for removing all those axioms

File: Garden/Basics.v [hunk 3]
```diff
@@ -0,0 +1,73 @@
...
+    |}.
+End Array.
+
+Module PreConditions.
+  Definition range_check_16 (x : Z) : Prop :=
+    (0 <= x < 2 ^ 16)%Z.
+  
+  Definition range_check_32 (x : Z) : Prop :=
+    (0 <= x < 2 ^ 32)%Z.
+
```
Comment (clarus) [inline Garden/Basics.v:72]:
```suggestion
```

File: Garden/ModuloArith/MArith.v [hunk 4]
```diff
@@ -0,0 +1,140 @@
...
+
+(* Activate the modulo arithmetic in [lia] *)
+Ltac Zify.zify_post_hook ::= Z.to_euclidean_division_equations.
+
+Global Set Primitive Projections.
+Global Set Printing Projections.
+Global Open Scope type_scope.
+Global Open Scope Z_scope.
+
+
```
Comment (clarus) [inline Garden/ModuloArith/MArith.v:14]:
```suggestion
```

File: Garden/ModuloArith/MArith.v [hunk 5]
```diff
@@ -0,0 +1,140 @@
...
+        apply Zmult_eqm ||
+        apply Zopp_eqm
+      );
+      unfold eqm
+    ) ||
+    rewrite Zmod_eqm ||
+    reflexivity
+  ).
+
+
```
Comment (clarus) [inline Garden/ModuloArith/MArith.v:29]:
```suggestion
```

File: Garden/ModuloArith/MArith.v [hunk 6]
```diff
@@ -0,0 +1,140 @@
...
+    apply H.
+  }
+  {
+    rewrite H.
+    rewrite Z.sub_diag.
+    apply Zmod_0_l.
+  }
+Qed.
+
+
```
Comment (clarus) [inline Garden/ModuloArith/MArith.v:112]:
```suggestion
```

File: Garden/ModuloArith/MArith.v [hunk 7]
```diff
@@ -0,0 +1,140 @@
...
+  end.
+
+Ltac bubble_mod_goal :=
+  unfold BinOp.add, BinOp.sub, BinOp.mul, Array.get_mod;
+  repeat rewrite mod_mod;
+  repeat match goal with
+  | |- context [?e1 mod ?p = ?e2 mod ?p] =>
+    bubble_mod_expr (e1 mod p);
+    bubble_mod_expr (e2 mod p)
+  end.
```
Comment (clarus) [inline Garden/ModuloArith/MArith.v:140]:
```suggestion
  end.

```

**Comment by clarus** [comment]
For the specification of the determinism of `quarter_round_function` it should be something of the form:

```coq
forall (trace' : ...),
(* I now do that as a convenient way to force all elements to be in [0, p(. 
   The corresponding trait instance can be defined like in the beginning of
   https://github.com/formal-land/garden/blob/main/Garden/Plonky3/keccak/columns.v
   with `Global Instance IsMapMod`
*)
let trace := M.map_mod trace' in
{{ quarter_round_function trace 🔽
    tt,
    (* using the appropriate Rocq syntax *)
    trace.a' = trace.a + trace.b + m^(2^32) /\
    trace.b' = ... /\
    ... /\
   trace.d_output = ... 
}}
```

The proof can use `Run.LetAccumulate` like in https://github.com/formal-land/garden/blob/main/Garden/OpenVM/BranchEq/core_with_monad.v , to accumulate the constraints computed at each line, and show at the end that they all imply the expected predicate.
